US04943580
To a stirred mixture of 4.32 parts of N-[1-(2-ethoxyethyl)-4-piperidinyl]-1H-benzimidazol-2-amine and 135 parts of N,N-dimethylformamide were added 0.75 parts of a sodium hydride dispersion 50% under nitrogen atmosphere. After stirring for 30 minutes at room temperature, a solution of 1.63 parts of 1-chloro-2-ethoxyethane in N,N-dimethylformamide was added dropwise to the thus obtained mixture at 50° C. Upon complete addition, stirring was continued overnight at 50° C. The reaction mixture was poured into water and the product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the ethanedioate salt in ethanol. The salt was filtered off and dried, yielding 3.2 parts (39.5%) of 1-(2-ethoxyethyl)-N-[1-(2-ethoxyethyl)-4-piperidinyl]-1H-benzimidazol-2-amine ethanedioate(1:2); mp. 184.7° C. (compound 153).

reactant | N-[1-(2-ethoxyethyl)-4-piperidinyl]-1H-benzimidazol-2-amine | C(C)OCCN1CCC(CC1)NC1=NC2=C(N1)C=CC=C2 | C16H24N4O
reactant | sodium hydride | [H-].[Na+]
reactant | 1-chloro-2-ethoxyethane | ClCCOCC | C4H9ClO
reactant | water | O | H2O
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(2-ethoxyethyl)-N-[1-(2-ethoxyethyl)-4-piperidinyl]-1H-benzimidazol-2-amine ethanedioate | 39.5% | C(C(=O)O)(=O)O.C(C)OCCN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCOCC | InChI=1S/C20H32N4O2.C2H2O4/c1-3-25-15-13-23-11-9-17(10-12-23)21-20-22-18-7-5-6-8-19(18)24(20)14-16-26-4-2;3-1(4)2(5)6/h5-8,17H,3-4,9-16H2,1-2H3,(H,21,22);(H,3,4)(H,5,6)
